US07521457B2
c) 2-(2,6-diamino-benzoylamino)-3-phenyl-propionic acid
410 mg (1.25 mmol) 2-(2-amino-6-nitro-benzoylamino)-3-phenyl-propionic acid are dissolved in 50 ml of methanol and combined with 40 mg palladium on charcoal (10% Pd). The reaction mixture is hydrogenated for 9 h at 5 bar H2 pressure and 25° C. Then the catalyst is filtered off, the solvent is eliminated in vacuo and the crude product is purified by chromatography. The carrier used is C18-RP-silica gel and a gradient is run through which consists of 95% water and 5% acetonitrile at the starting point and consists of 5% water and 95% acetonitrile at the finishing point.

reactant | 2-(2-amino-6-nitro-benzoylamino)-3-phenyl-propionic acid | 1.25 mmol, 410 mg | NC1=C(C(=O)NC(C(=O)O)CC2=CC=CC=C2)C(=CC=C1)[N+](=O)[O-] | C16H15N3O5
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium on charcoal | 40 mg | [Pd] | Pd
product | 2-(2,6-diamino-benzoylamino)-3-phenyl-propionic acid | NC1=C(C(=O)NC(C(=O)O)CC2=CC=CC=C2)C(=CC=C1)N | C16H17N3O3
